US04118386
8-Iodo-6-(2-fluorophenyl)-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, ethyl ester
A stirred solution of 3.8 g (0.01 mol) of 7-iodo-1,3-dihydro-5-(2-fluorophenyl)-2H-1,4-benzodiazepine-2-one in 50 ml of dimethyl formamide was cooled in an ice bath under an atmosphere of nitrogen. Potassium t-butoxide, 1.29 g (0.0115 mol) was added and after stirring for 5 minutes, 2.59 g (0.015 mol) of diethyl chlorophosphate was added and the stirring was continued for 5 minutes. A mixture of 2.26 g (0.02 mol) of ethyl isocyanoacetate in 50 ml of dimethylformamide that had been treated with 2.24 g (0.02 mol) of potassium t-butoxide just prior to the addition, was then added. After 5 minutes the ice bath was removed and the stirring was continued for 3 hours. The mixture was acidified with 2 ml of glacial acetic acid, diluted with 200 ml of saturated sodium bicarbonate solution and extracted with two 125 ml portions of toluene which were dried and evaporated. The residue was crystallized from ethyl acetate. For analysis, the crude product was chromatographed over silica gel using methylene chloride/ethyl acetate 1:1 (v/v) and then crystallized from ethyl acetate/hexane to give pure product with mp 200°-202°.

reactant | 7-iodo-1,3-dihydro-5-(2-fluorophenyl)-2H-1,4-benzodiazepine-2-one | 0.01 mol, 3.8 g | IC=1C=CC2=C(C(=NCC(N2)=O)C2=C(C=CC=C2)F)C1 | C15H10FIN2O
reactant | Potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | diethyl chlorophosphate | 0.015 mol, 2.59 g | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | ethyl isocyanoacetate | 0.02 mol, 2.26 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | potassium t-butoxide | 0.02 mol, 2.24 g | CC(C)([O-])C.[K+]
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 8-Iodo-6-(2-fluorophenyl)-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, ethyl ester | IC=1C=CC2=C(C(=NCC=3N2C=NC3C(=O)OCC)C3=C(C=CC=C3)F)C1 | C20H15FIN3O2
